US05204333
To a stirred solution of 2,2-dimethyl-5-(3,4-difluorophenyl)-5-(4-methoxybenzyloxymethyl)-1,3-dioxane (360 mg, 1 mmol) in 10 ml of an 18:1 v/v mixture of dichloromethane-water was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (350 mg, 1.5 mmol) in small portions. The reaction mixture was stirred for 4 hours, then filtered and evaporated; purification on a silica column eluting with dichloromethane/methanol (19:1 v/v) afforded 2,2-dimethyl-5-(3,4-difluorophenyl) 5-hydroxymethyl-1,3-dioxane as a yellow oil. Nmr δ 7.2-7.0 (3H,m), 4.05 (2H,d), 4.00 (2H,d), 4.00 (2H,s), 1.75 (1H,broad), 1.4 (6H,d).

reactant | 2,2-dimethyl-5-(3,4-difluorophenyl)-5-(4-methoxybenzyloxymethyl)-1,3-dioxane | 1 mmol, 360 mg | CC1(OCC(CO1)(COCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)F)F)C | C21H24F2O4
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 1.5 mmol, 350 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dichloromethane water | ClCCl.O
product | 2,2-dimethyl-5-(3,4-difluorophenyl) 5-hydroxymethyl-1,3-dioxane | CC1(OCC(CO1)(CO)C1=CC(=C(C=C1)F)F)C | C13H16F2O3
